US08877968B2
549 mg (1.7 mmol) of tert-butyl 4-cyclohexyl-4-propionylpiperidine-1-carboxylate are dissolved in 2 mL (17 mmol) of 4N hydrogen chloride in ethyl acetate. The reaction mixture is stirred for 6 hours at room temperature. The solvents are evaporated off. The residue is taken up in ether and filtered off. 395 mg of 4-cyclohexyl-4-propionylpiperidine hydrochloride in the form of a white powder are obtained in a yield of 90%.

reactant | tert-butyl 4-cyclohexyl-4-propionylpiperidine-1-carboxylate | 1.7 mmol, 549 mg | C1(CCCCC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C(CC)=O | C19H33NO3
reactant | hydrogen chloride | 17 mmol, 4N, 2 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-cyclohexyl-4-propionylpiperidine hydrochloride | 395 mg, yield of 90% | Cl.C1(CCCCC1)C1(CCNCC1)C(CC)=O | InChI=1S/C14H25NO.ClH/c1-2-13(16)14(8-10-15-11-9-14)12-6-4-3-5-7-12;/h12,15H,2-11H2,1H3;1H
